US05173489
Part D; Preparation of 9,9-Bis-(4-pyridinylmethyl)indeno[2,1-b]pyridine
2.0 g (42 mmole) of 50% sodium hydride was suspended in a 250 ml, 4-neck, round-bottom flask fitted with nitrogen inlet, condenser, thermometer, addition funnel, magnetic stirrer, and 25 ml of sodium dried tetrahydrofuran (THF) containing 2.5 g (15 mmol) of 1-azafluorene. The mixture was allowed to stir at room temperature for one hour. 6.6 g (40 mmole) of 4-picolylchloride hydrochloride was dissolved in the minimum amount of water and cooled to 0°-5°. Being very careful to keep the temperature below 5°, it was basified with ammonium hydroxide, quickly extracted with benzene, dried with potassium carbonate and filtered. The benzene solution of 4-picolyl chloride was added to the reaction mixture during 15 min. After completion of addition, the mixture was heated to 60° until TLC showed completion of reaction (ETOAc-CH3OH; 90:10) Rf 0.13. Rf 0.13. The reaction mixture was cooled and decomposed with saturated ammonium chloride solution. The layers were separated and the organic phase extracted with benzene. This was dried with potassium carbonate and evaporated to yield 6.0 g crude product. Flash chromatography (ethyl acetate) yielded 4.0 g of product which was recrystallized from butyl chloride to yield 2.49 g, m.p. 204.7-206.0°. HRMS calculated mass 349.1528, difference 0.0004, C24H19N3, NMR (200MHz, CDCl3) δ3.394-3.718[dd,4H,(--CH2 --pyridyl]; 6.437(d,4H,β-pyridyls); 7.107-7.635 (m,6H,aromatic); 8.027-8.057(d,4H,α-pyridyls); 8.589-8.621(dd,1H,α-CHN-azafluorene).

reactant | sodium hydride | 42 mmole, 2.0 g | [H-].[Na+]
reactant | sodium | 25 ml | [Na] | Na
reactant | 1-azafluorene | 15 mmol, 2.5 g | N1=CC=CC=2C3=CC=CC=C3CC12 | C12H9N
reactant | 4-picolylchloride hydrochloride | 40 mmole, 6.6 g | Cl.N1=CC=C(C=C1)CCl
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9,9-Bis-(4-pyridinylmethyl)indeno[2,1-b]pyridine | 4.0 g | N1=CC=C(C=C1)CC1(C=2C=CC=CC2C=2C1=NC=CC2)CC2=CC=NC=C2 | C24H19N3
